US07112582B2
Step 4: 6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-ylmethanol
To a solution of ethyl 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylate (1.57 g, 8.0 mmol) in methylene chloride (30 ml) was added 24 ml of a 1.0 M solution of diisobutylaluminum hydride in methylene chloride at 0° C., under nitrogen. After stirring for 0.5 hr at 0° C., the mixture was warmed to room temperature for 2 hr. It was then treated with 30 ml of saturated ammonium chloride solution and extracted with ethyl acetate. The organic solution was washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated to give 1.27 g of a colorless oil; MS (ESI) m/z 155.3 (M+H).

reactant | ethyl 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylate | 8.0 mmol, 1.57 g | N1=C(C=C2COCCN21)C(=O)OCC | C9H12N2O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-ylmethanol | 1.27 g | N1=C(C=C2COCCN21)CO | C7H10N2O2
